US08541588B2
1-(Ethoxymethyl)-1H-pyrazole
To a mixture of pyrazole (10 g, 0.150 mol) and potassium carbonate (22.3 g, 0.162 mol) in acetone (200.0 mL), cooled to 0° C. under nitrogen, was added chloromethyl ethyl ether (15.0 mL, 0.162 mol) via syringe over a period of 20 minutes. The reaction was stirred for 30 minutes at 0° C. and then for 2 hours at room temperature. The mixture was filtered, washing the solid with acetone (200.0 mL). The filtrate was carefully concentrated in vacuo (at 400 mbar). The crude material was purified by flash column chromatography eluting with pentane:diethylether (1:1, by volume) to afford the title compound as a colourless oil, 9.3 g, 50% yield.

reactant | pyrazole | 0.150 mol, 10 g | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 0.162 mol, 22.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl ethyl ether | 0.162 mol, 15.0 mL | C(C)OCCl | C3H7ClO
solvent | acetone | 200.0 mL | CC(=O)C | C3H6O
product | 1-(Ethoxymethyl)-1H-pyrazole | 50% yield | C(C)OCN1N=CC=C1 | C6H10N2O
